US08309751B2
2-Acetyldecanonitrile
In a stirred vessel fitted with reflux condenser and dropping funnel, 317 g of o-xylene were initially charged, 198.96 g of solid potassium methoxide were added and the mixture was heated at reflux. A mixture of 170 g of decanonitrile and 133.9 g of ethyl acetate was then added via the dropping funnel over a period of 10 min. After the addition had ended, stirring was continued for 4 h, and the mixture was then cooled to 105° C. 372 g of water were then added, and the mixture was adjusted to pH 4.3 by addition of about 470 g of 20% strength hydrochloric acid. The temperature was set to 65° C., and the (lower) aqueous phase was removed. The organic phase was washed with another 186 g of water. After removal of the aqueous phase, the organic phase was concentrated to about half of its original volume to remove the water. This gave 211.7 g of a light-yellow solution having a content of product of value of 66.8% a/a (GC), which solution can be reacted further as such. For purification, the compound was distilled under high vacuum, with the product passing over at 106 to 121° C./1 mbar.

reactant | o-xylene | 317 g | CC=1C=CC=CC1C | C8H10
reactant | potassium methoxide | C[O-].[K+]
reactant | decanonitrile | 170 g | C(CCCCCCCCC)#N | C10H19N
reactant | hydrochloric acid | Cl | ClH
solvent | water | 372 g | O | H2O
solvent | ethyl acetate | 133.9 g | C(C)(=O)OCC | C4H8O2
product | 2-Acetyldecanonitrile | C(C)(=O)C(C#N)CCCCCCCC | C12H21NO
